US05516774
N-[4-(3-Chloro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-10(11H)ylcarbonyl)phenyl]-2-methylbenzamide
To an ice-water cooled suspension of 211 mg of 2-methyl-N-[4-(5H-pyrrolo[2,1-c][1,4]-benzodiazepin-10(11H)-ylcarbonyl)-phenyl]benzamide in 5 ml of tetrahydrofuran is added 67 mg of N-chlorosuccinimide followed by continued stirring in the cold for 10 minutes. The bath is removed and stirring continued for 2.25 hours. The reaction mixture is added to ice-water and extracted with ether. The organic layer is dried and concentrated in vacuo to give a foam which is crystallized from ethyl acetate-hexane to give 157 mg of the desired product as an orange-pink solid, m.p. 185°-187° C.

reactant | 2-methyl-N-[4-(5H-pyrrolo[2,1-c][1,4]-benzodiazepin-10(11H)-ylcarbonyl)-phenyl]benzamide | 211 mg | CC1=C(C(=O)NC2=CC=C(C=C2)C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=CC=C1 | C27H23N3O2
reactant | N-chlorosuccinimide | 67 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[4-(3-Chloro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-10(11H)ylcarbonyl)phenyl]-2-methylbenzamide | 157 mg | ClC1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C27H22ClN3O2
